US08012974B2
1-(1-Trifluoromethanesulfonyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea was prepared in the same manner from 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride and trifluoromethane sulfonyl chloride.

reactant | 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | Cl.Cl.N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | trifluoromethane sulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | 1-(1-Trifluoromethanesulfonyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | FC(S(=O)(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)(F)F | C19H29F3N6O4SSi
